### PR TITLE
[Merged by Bors] - feat(RingTheory/FormalGroup): definition and examples of formal group

### PR DESCRIPTION
**Pull request by WenrongZou**
---
Definition of one dimensional formal group law over commutative ring and some examples of formal group law. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,191 @@
...
+abbrev X₁ : MvPowerSeries (Fin 2) R := X (1 : Fin 2)
+
+/-- The first indeterminate for a power series in three variables. -/
+abbrev Y₀ : MvPowerSeries (Fin 3) R := X (0 : Fin 3)
+
+/-- The second indeterminate for a power series in three variables. -/
+abbrev Y₁ : MvPowerSeries (Fin 3) R := X (1 : Fin 3)
+
+/-- The third indeterminate for a power series in three variables. -/
+abbrev Y₂ : MvPowerSeries (Fin 3) R := X (2 : Fin 3)
```
Comment (wwylele) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: These definitions with short names appear in the public root namespace, which doesn't seem ideal. Maybe it makes more sense to make them local notations?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,191 @@
...
+
+* Properties: `F(X,0) = 0` and `F(0,X) = X`.
+
+* Additive formal group laws and multiplicative formal group laws.
+
+* Instance: Group instance defined by the formal group law `F` over the ideal
+  `PowerSeries.hasEvalIdeal`.
+
+## References
+* [Hazewinkel, Michiel. «Formal Groups and Applications»]
```
Comment (wwylele) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Could you make this a proper entry in [references.bib](https://github.com/leanprover-community/mathlib4/blob/master/docs/references.bib)?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+
+-/
+
+@[expose] public section
+
+variable {R : Type*} [CommRing R] {S : Type*} [CommRing S] [Algebra R S]
+  {σ τ : Type*}
+  -- (F : MvPowerSeries (Fin 2) R) (α : PowerSeries R)
```
Comment (wwylele) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: If this is not used, you can remove it

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Oh, thanks, I forgot to remove it.

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,189 @@
...
+
+/-- The third indeterminate for a power series in three variables. -/
+local notation "Y₂" => (X (2 : Fin 3) : MvPowerSeries (Fin 3) R)
+
+variable (R) in
+/-- A structure for a 1-dimensional formal group law over `R`. -/
+@[ext]
+structure FormalGroup where
+  /-- The underlying power series $F(X, Y)$ in two variables. -/
+  toFun : MvPowerSeries (Fin 2) R
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: I'm not entirely sure if `toFun` is the right name.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,189 @@
...
+
+lemma HasSubst.cons_subst_zero_left (hF : constantCoeff F = 0) :
+    HasSubst (![subst ![Y₀, Y₁] F, Y₂]) (S := R) := by
+  refine hasSubst_of_constantCoeff_zero ?_
+  intro s; fin_cases s
+  · simpa using constantCoeff_subst_eq_zero .X_two (by simp) hF
+  · simp
+
+lemma HasSubst.cons_subst_zero_right (hF : constantCoeff F = 0) :
+    HasSubst ![Y₀, subst ![Y₁, Y₂] F] (S := R):= by
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
    HasSubst ![Y₀, subst ![Y₁, Y₂] F] (S := R) := by
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,189 @@
...
+  /- Commutativity condition: `F (X, Y) = F (Y, X)`. -/
+  comm : toFun = toFun.subst ![X₁, X₀]
+
+/-- Given a formal group `F`, `F.comm` is a proposition that `F(X,Y) = F(Y,X)`. -/
+def FormalGroup.comm (F : FormalGroup R) : Prop :=
+  F.toFun = MvPowerSeries.subst ![X₁, X₀] F.toFun
+
+/-- A commutative formal group law is a formal group law. -/
+instance : Coe (CommFormalGroup R) (FormalGroup R) where
+  coe := CommFormalGroup.toFormalGroup
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: I would tend to believe that `FormalGroup.comm` should be a typeclass and we should not have `CommFormalGroup` at all. What do you think?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,189 @@
...
+
+section Lemma
+
+namespace MvPowerSeries
+
+variable {F : MvPowerSeries (Fin 2) R}
+
+lemma HasSubst.X_two {i j : σ} : HasSubst ![X i, X j (R := R)] :=
+  hasSubst_of_constantCoeff_zero (by simp)
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: The two lemmas following this are fine as they are way too specific, but this lemma at least should be moved somewhere else. And I think maybe `HasSubst.X_X` is a better name, since `2` doesn't really appear in the statement.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,189 @@
...
+
+namespace FormalGroup
+
+/-- addition of two multi variate power series under the formal group `F` sense, namely
+`f₀ + [F] f₁ := F (f₀, f₁)` -/
+abbrev add (F : FormalGroup R) (f₀ f₁ : MvPowerSeries σ R) : MvPowerSeries σ R :=
+  subst ![f₀, f₁] F.toFun
+
+/-- `f₀ +[F] f₁` means `F (f₀, f₁)`. -/
+scoped[FormalGroup] notation:65 f₀:65 " +[" F:0 "] " f₁:66 => add F f₀ f₁
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: I wonder if you should define a typeclass synonym on `MvPowerSeries σ R` and use `Add` directly.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,189 @@
...
+  toFun : MvPowerSeries (Fin 2) R
+  /-- The constant coefficient of the formal group law is zero. -/
+  zero_constantCoeff : constantCoeff toFun = 0
+  /-- The coefficient of $X$ in $F(X, Y)$ is 1. -/
+  lin_coeff_X : coeff (single 0 1) toFun = 1
+  /-- The coefficient of $Y$ in $F(X, Y)$ is 1. -/
+  lin_coeff_Y : coeff (single 1 1) toFun = 1
+  /-- Associativity condition: $F(F(X, Y), Z) = F(X, F(Y, Z))$. -/
+  assoc : subst ![subst ![Y₀, Y₁] toFun, Y₂] toFun
+    = subst ![Y₀, subst ![Y₁, Y₂] toFun] toFun (S := R)
```
Comment (erdOne) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: How far are we from things like `F(0, X) = X` and `F(X, 0) = 0`? Inverse might be way harder.

**Review by erdOne — COMMENTED** [review]
This is great! Left some comments:

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 9 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: For `F(0, X) = X` and `F(X, 0) = X`, it need approximate 200 lines of code if we have substitution inverse. And I already PRed the inverse part at [#36167](https://github.com/leanprover-community/mathlib4/pull/36167).

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 6 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 4 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: What about `val`?

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 8 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: I have considered this question for a while. I don't want to restrict the subjects to `MvPowerSeries σ R`. I mean we are able to define group structure for various objects (not just formal group law) using formal group law. So this typeclass could be more general objects that can be substitute into `F`.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,179 @@
...
+local notation "X₁" => (X (1 : Fin 2) : MvPowerSeries (Fin 2) R)
+
+/-- The first indeterminate for a power series in three variables. -/
+local notation "Y₀" => (X (0 : Fin 3) : MvPowerSeries (Fin 3) R)
+
+/-- The second indeterminate for a power series in three variables. -/
+local notation "Y₁" => (X (1 : Fin 3) : MvPowerSeries (Fin 3) R)
+
+/-- The third indeterminate for a power series in three variables. -/
+local notation "Y₂" => (X (2 : Fin 3) : MvPowerSeries (Fin 3) R)
```
Comment (Multramate) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: You might be able to use [name_poly_vars](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/Ring/NamePolyVars.html#Mathlib.Tactic.namePolyVarsOver) here

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 4 above)
Comment (Multramate) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Maybe `powerSeries` for the underlying power series?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,179 @@
...
+  intro s; fin_cases s
+  · simpa using constantCoeff_subst_eq_zero .X_X (by simp) hF
+  · simp
+
+lemma HasSubst.cons_subst_zero_right (hF : constantCoeff F = 0) :
+    HasSubst ![Y₀, subst ![Y₁, Y₂] F] (S := R) := by
+  refine hasSubst_of_constantCoeff_zero ?_
+  intro s; fin_cases s
+  · simp
+  · simpa using constantCoeff_subst_eq_zero .X_X (by simp) hF
```
Comment (Multramate) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: These shouldn't be in this file

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,179 @@
...
+@[nolint unusedArguments]
+def Point (F : FormalGroup R) (σ : Type) := MvPowerSeries σ R
+
+instance : Add (F.Point σ) where
+  add x y := subst ![x, y] F.toFun
+
+/- TODO : Zero, SMul, Inv instance. -/
+
+/-- Additive formal group law `Gₐ(X,Y) = X + Y`. -/
+def Gₐ : FormalGroup R where
```
Comment (Multramate) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Do you want to use `\bbG` for blackboard G? Same for G_m

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 11 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: I think it is fine to be here, since it is too specific. Maybe it is not suitable to be in `MvPowerSeries.Substitute`.

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 4 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: I was wondering whether we could have a short name. I found it was quite painful to use `powerSeries` in practice.

Comment (artie2000) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: you could add a coercion

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 13]
```diff
@@ -157,6 +157,9 @@ theorem hasSubst_of_constantCoeff_zero [Finite σ]
     HasSubst a :=
   hasSubst_of_constantCoeff_nilpotent (fun s ↦ by simp only [ha s, IsNilpotent.zero])
 
+lemma HasSubst.X_X {i j : σ} : HasSubst ![X i, X j (R := R)] :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]:
```suggestion
lemma HasSubst.X_X {i j : σ} : HasSubst (R := R) ![X i, X j] :=
```
This feels more symmetrical to me.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,168 @@
...
+    HasSubst (![subst ![Y₀, Y₁] F, Y₂]) (S := R) :=
+  hasSubst_of_constantCoeff_zero fun s => by
+    fin_cases s <;> simp_all [constantCoeff_subst_eq_zero .X_X]
+
+lemma HasSubst.cons_subst_zero_right (hF : constantCoeff F = 0) :
+    HasSubst ![Y₀, subst ![Y₁, Y₂] F] (S := R) :=
+  hasSubst_of_constantCoeff_zero fun s => by
+    fin_cases s <;> simp_all [constantCoeff_subst_eq_zero .X_X]
+
+end MvPowerSeries
```
Comment (jcommelin) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: I think this can be moved up to a more basic/general file on `HasSubst`.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,168 @@
...
+
+end Lemma
+
+namespace FormalGroup
+
+variable {σ : Type} (F : FormalGroup R)
+
+set_option linter.unusedVariables false in
+/-- This is a synonym of multivariate power series. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Can you expand this docstring, so that it explains what this mathematical concept is, instead of the implementation?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,168 @@
...
+@[nolint unusedArguments]
+def Point (F : FormalGroup R) (σ : Type) := MvPowerSeries σ R
+
+instance : Add (F.Point σ) where
+  add x y := (F : MvPowerSeries (Fin 2) R).subst ![x, y]
+
+/- TODO : Zero, SMul, Inv instance. -/
+
+/-- Additive formal group law `Gₐ(X,Y) = X + Y`. -/
+def 𝔾ₐ : FormalGroup R where
```
Comment (jcommelin) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:95]:
```suggestion
@[simps]
def 𝔾ₐ : FormalGroup R where
```
This should generate the `_apply` lemma below.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,168 @@
...
+    simp [subst_add .X_X, subst_X .X_X, add_assoc]
+
+@[simp]
+lemma 𝔾ₐ_apply : 𝔾ₐ.toPowerSeries = X₀ + X₁ := rfl
+
+instance : (𝔾ₐ (R := R)).IsComm where
+  comm := by simp [subst_add .X_X, subst_X .X_X, add_comm]
+
+/-- Multiplicative formal group law `Gₘ(X,Y) = X + Y + XY`. -/
+def 𝔾ₘ : FormalGroup R where
```
Comment (jcommelin) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:111]:
```suggestion
@[simps]
def 𝔾ₘ : FormalGroup R where
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,168 @@
...
+    ring
+
+@[simp]
+lemma 𝔾ₘ_apply : 𝔾ₘ.toPowerSeries = X₀ + X₁ + X₀ * X₁ := rfl
+
+instance : (𝔾ₘ (R := R)).IsComm where
+  comm := by simp [subst_add .X_X, subst_mul .X_X, subst_X .X_X, add_comm, mul_comm]
+
+omit [Algebra R S] in
+/-- Given a algebra map `f : R →+* S` and a formal group law `F` over `R`, then `f_* F` is a
```
Comment (jcommelin) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
/-- Given an algebra map `f : R →+* S` and a formal group law `F` over `R`, then `f_* F` is a
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean (hunk 15 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by WenrongZou** [comment]
Thanks for your reviews!
